US05332717
A mixture of 0.4 g of 7-hydroxy-3-methyl-phthalide, 0.52 g of 4,6-dimethoxy-pyrimidin-2-ylmethylsulfone and 1.05 g of potassium carbonate is heated at reflux temperature in 5 ml of dimethylformamide for 2 hours. The mixture is then diluted with ethyl acetate and washed once with water and once with sodium chloride solution. The crude product which remains after evaporation of the solvent is purified by chromatography on silica gel using ethyl acetate/n-hexane (1:2) to yield 7-[(4,6-dimethoxy-pyrimidin-2-yl)oxy]-3-methyl-phthalide, m.p. 190°-191° C.; IR spectrum (CHCl3): C=O 1765 cm-1 ; 1H-NMR (CDCl3, 200 MHz): 7.84 ppm (double-d, J1 =J2 =8 Hz, 1H), 7.57 ppm (d, J=8 Hz, 1H), 7.37 ppm (d, J=8 Hz, 1H ), 6.01 ppm (s, 1H), 5.72 ppm (q, J=7 Hz, 1H), 3.73 ppm (s, 6H of the two OCH3), 1.56 ppm (d, J=7 Hz, 3H).

reactant | 7-hydroxy-3-methyl-phthalide | 0.4 g | OC=1C=CC=C2C(OC(=O)C12)C | C9H8O3
reactant | 4,6-dimethoxy-pyrimidin-2-ylmethylsulfone | 0.52 g | COC1=NC(=NC(=C1)OC)CS(=O)(=O)CC1=NC(=CC(=N1)OC)OC | C14H18N4O6S
reactant | potassium carbonate | 1.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[(4,6-dimethoxy-pyrimidin-2-yl)oxy]-3-methyl-phthalide | COC1=NC(=NC(=C1)OC)OC=1C=CC=C2C(OC(=O)C12)C | C15H14N2O5
